US06348474B1
7-Carboxy-2-(2,4-dichlorobenzyl)-3-ethylbenzo[b]thiophene
2-(2,4-Dichlorobenzoyl)-3-ethyl-7-(methoxycarbonyl)benzo[b]thiophene (2.85 g) and hydrazine hydrate (3.50 g) were stirred in ethylene glycol (30 ml) at 160° C. for 1 hr. After cooling, potassium hydroxide (3.30 g) was added, and the mixture was stirred at 160° C. for 2 hr. After cooling, ice and concentrated hydrochloric acid were added, and the mixture was extracted with ethyl acetate. The extract was dried over sodium sulfate and concentrated, and the residue was purified by silica gel column chromatography to give the objective compound (1.98 g) as white crystals.

reactant | 2-(2,4-Dichlorobenzoyl)-3-ethyl-7-(methoxycarbonyl)benzo[b]thiophene | 2.85 g | ClC1=C(C(=O)C2=C(C3=C(S2)C(=CC=C3)C(=O)OC)CC)C=CC(=C1)Cl | C19H14Cl2O3S
reactant | hydrazine hydrate | 3.50 g | O.NN
reactant | potassium hydroxide | 3.30 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethylene glycol | 30 ml | C(CO)O | C2H6O2
product | 7-Carboxy-2-(2,4-dichlorobenzyl)-3-ethylbenzo[b]thiophene | 1.98 g | C(=O)(O)C1=CC=CC2=C1SC(=C2CC)CC2=C(C=C(C=C2)Cl)Cl | C18H14Cl2O2S
